US07119207B2
1-Methyl-6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde
6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde 30 mg (0.146 mmol) was dissolved in 5 ml of anhydrous THF and the solution was cooled to 0° C. The reaction mixture was treated with 16 mg (0.146 mmol) of potassium t-butoxide whereupon it became yellow in color. After stirring for 30 minutes, the mixture was treated with 14 μl (0.146 mmol) dimethylsulfate and slowly warmed to room temperature while stirring for 16 hours. The reaction mixture was diluted with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated to an oil. The residue was chromatographed on silica gel eluting with 6/4 ethyl acetate/hexane to afford 16 mg (50%) as a white solid. MS APCI m/e 220 (p+1)

reactant | 6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | 0.146 mmol, 30 mg | COC=1C=C2CCC(NC2=CC1C=O)=O | C11H11NO3
reactant | potassium t-butoxide | 0.146 mmol, 16 mg | CC(C)([O-])C.[K+]
reactant | dimethylsulfate | 0.146 mmol, 14 μl | COS(=O)(=O)OC | C2H6O4S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-Methyl-6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | CN1C(CCC2=CC(=C(C=C12)C=O)OC)=O | C12H13NO3
